* C:\Users\luish\OneDrive\Área de Trabalho\s6\Elt2\trab\amp_op\CIRC-AMP-OP\LM741.asc
Q1 N001 +Vid N009 0 BC547C
Q2 N001 -Vid N010 0 BC547C
Q3 N019 N013 N009 0 BC557C
Q4 N020 N013 N010 0 BC557C
Q5 N019 N027 N031 0 BC547C
Q6 N020 N027 N032 0 BC547C
Q7 V+ N019 N027 0 BC547C
Q8 N001 N001 V+ 0 BC557C
Q9 N013 N001 V+ 0 BC557C
Q10 N013 N023 N033 0 BC547C
Q11 N023 N023 V- 0 BC547C
R1 N031 V- 1k
R2 N032 V- 1k
R3 N027 V- 50k
R4 N033 V- 30
R5 N002 N023 42k
Q12 N002 N002 V+ 0 BC557C
Q13 N005 N002 V+ 0 BC557C
Q15 N005 N014 Vout 0 BC547C
Q16 N017 N020 N025 0 BC547C
Q17 N017 N025 N028 0 BC547C
Q18 N005 N007 N017 0 BC547C
Q19 N020 N028 V- 0 BC547C
C1 N005 N020 7pF
R6 N005 N007 2k
R7 N017 N007 11k
R8 N014 Vout 25
R10 N028 V- 50
R11 N025 V- 50k
Q14 V+ N005 N014 0 BC547C
R9 Vout N034 50
Q20 V- N017 N034 0 BC557C
V1 V+ 0 15V
V2 0 V- 15V
V4 +Vid 0 AC 0.5
V3 0 -Vid AC 0.5
Q21 N003 Vcm N011 0 BC547C
Q22 N003 Vcm N012 0 BC547C
Q23 N021 N015 N011 0 BC557C
Q24 N022 N015 N012 0 BC557C
Q25 N021 N029 N035 0 BC547C
Q26 N022 N029 N036 0 BC547C
Q27 V+ N021 N029 0 BC547C
Q28 N003 N003 V+ 0 BC557C
Q29 N015 N003 V+ 0 BC557C
Q30 N015 N024 N037 0 BC547C
Q31 N024 N024 V- 0 BC547C
R12 N035 V- 1k
R13 N036 V- 1k
R14 N029 V- 50k
R15 N037 V- 30
R16 N004 N024 42k
Q32 N004 N004 V+ 0 BC557C
Q33 N006 N004 V+ 0 BC557C
Q34 N006 N016 Vout2 0 BC547C
Q35 N018 N022 N026 0 BC547C
Q36 N018 N026 N030 0 BC547C
Q37 N006 N008 N018 0 BC547C
Q38 N022 N030 V- 0 BC547C
C2 N006 N022 7pF
R17 N006 N008 2k
R18 N018 N008 11k
R19 N016 Vout2 25
R20 N030 V- 50
R21 N026 V- 50k
Q39 V+ N006 N016 0 BC547C
R22 Vout2 N038 50
Q40 V- N018 N038 0 BC557C
V5 Vcm 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\luish\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 51 0.1 100Meg
;tran 0 100m 0
* +
* -
* +
* -
.backanno
.end
